US03976681
Step C: [1',3'-Dioxo-4'-chloro-5'-methylspiro-(cyclopentane-1,2'-indan)-6'-yloxy]-acetic acid
A mixture of methyl [1',3'-dioxo-4'-chloro-5'-methylspiro(cyclopentane-1,2'-indan)-6'-yloxy]acetate (3.5 g., 0.0104 mole) potassium hydroxide (0.67 g., 0.012 mole) and methanol (200 ml.) is refluxed for 1/2 hour, diluted with water (800 ml.) and acidified with hydrochloric acid affording 3.1 g. of [1',3'-dioxo-4'-chloro-5'-methylspiro(cyclopentane-1,2'-indan)-6'-ylox]acetic acid which melts at 204°-4°C. after recrystallization from acetic acid-water.

reactant | methyl [1',3'-dioxo-4'-chloro-5'-methylspiro(cyclopentane-1,2'-indan)-6'-yloxy]acetate | 0.0104 mole, 3.5 g | O=C1C2(C(C3=C(C(=C(C=C13)OCC(=O)OC)C)Cl)=O)CCCC2 | C17H17ClO5
reactant | potassium hydroxide | 0.012 mole, 0.67 g | [OH-].[K+]
reactant | methanol | 200 ml | CO | CH4O
reactant | hydrochloric acid | 3.1 g | Cl | ClH
solvent | water | 800 ml | O | H2O
product | [1',3'-Dioxo-4'-chloro-5'-methylspiro-(cyclopentane-1,2'-indan)-6'-yloxy]-acetic acid | O=C1C2(C(C3=C(C(=C(C=C13)OCC(=O)O)C)Cl)=O)CCCC2 | C16H15ClO5
